US07750002B2
155 (S)-1-[2-(1H-Indazol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperidine-3-carboxylic acid methylamide
Via (S)-1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidine-3-carboxylic acid methylamide, prepared from (S)-piperidine-3-carboxylic acid methylamide. Amine preparation as for 154, utilizing (R)-(+)-nipecotic acid hydrochloride as the starting material.

reactant | (S)-1-(2-chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl)-piperidine-3-carboxylic acid methylamide | CNC(=O)[C@@H]1CN(CCC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)Cl | C18H24ClN5O2S
reactant | (S)-piperidine-3-carboxylic acid methylamide | CNC(=O)[C@@H]1CNCCC1 | C7H14N2O
reactant | (R)-(+)-nipecotic acid hydrochloride | Cl.N1C[C@H](C(=O)O)CCC1
product | (S)-1-[2-(1H-Indazol-4-yl)-4-morpholin-4-yl-thieno[3,2-d]pyrimidin-6-ylmethyl]-piperidine-3-carboxylic acid methylamide | CNC(=O)[C@@H]1CN(CCC1)CC1=CC=2N=C(N=C(C2S1)N1CCOCC1)C1=C2C=NNC2=CC=C1 | C25H29N7O2S
